US07642264B2
4-(3,4-Dichloro-phenyl)-2-(4-iodo-imidazol-1-yl)-6-methyl-pyrimidine
The title compound was prepared from 2-chloro-4-(3,4-dichloro-phenyl)-6-methyl-pyrimidine (example A.41) (3.83 g, 14.0 mmol) and commercially available 4-iodo-imidazole (4.07 g, 21.0 mmol) according to the general procedure IVa. Obtained as a brown solid (1.41 g, 24%). MS (ISP) 431.0 [(M+H)+]; mp 224.5° C.

reactant | 2-chloro-4-(3,4-dichloro-phenyl)-6-methyl-pyrimidine | 14.0 mmol, 3.83 g | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C | C11H7Cl3N2
reactant | 4-iodo-imidazole | 21.0 mmol, 4.07 g | IC=1N=CNC1 | C3H3IN2
product | 4-(3,4-Dichloro-phenyl)-2-(4-iodo-imidazol-1-yl)-6-methyl-pyrimidine | ClC=1C=C(C=CC1Cl)C1=NC(=NC(=C1)C)N1C=NC(=C1)I | C14H9Cl2IN4
